US08222416B2
A mixture of 5-chloromethyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (798 mg, 1.92 mmol) and sodium cyanide (500 mg, 10.87 mmol) in N,N-dimethylformamide (3 mL) was subjected to microwave irradiation for 0.5 h at 100° C. The mixture was diluted with ethyl acetate (250 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 5% methanol/dichloromethane) afforded {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetonitrile (140 mg, 18%) as a light yellow solid: LC/MS m/e calcd for C23H25N3O2S [M+H]+ 408.54, observed 408.0; 1H NMR (400 MHz, CDCl3) δ ppm 1.21 (m, 2H), 1.48 (m, 2H), 1.57-1.90 (m, 5H, H), 2.18 (m, 1H), 2.26 (m, 1H), 3.06 (s, 3H), 3.99 (s, 2H), 4.43 (m, 1H), 6.59 (s, 1H), 7.56 (d, J=8.2 Hz, 2H), 7.90 (d, J=8.2 Hz, 2H), 8.24 (s, 1H), 8.32 (s, 1H), 12.48 (br, 1H).

reactant | 5-chloromethyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 1.92 mmol, 798 mg | ClCC=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C22H25ClN2O2S
reactant | sodium cyanide | 10.87 mmol, 500 mg | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetonitrile | 140 mg, 18% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC#N)N1 | C23H25N3O2S
